US05274148
A 1-liter three necked round bottom flask was charged with 100 grams (0.33 moles) of 1-bromohexadecane, 92.5 grams (0.99 moles) of phenol, 55.2 grams (0.99 moles) of potassium hydroxide, 10 grams of tetra-n-butylammonium bromide, 167 ml of toluene, and 167 ml of water. The flask was fitted with a mechanical stirrer, nitrogen inlet, condenser, thermometer and heating mantle. The reaction mixture was heated to reflux at about 92° C., under a nitrogen purge for 16 hours with constant agitation. After 16 hours, the mixture was cooled and transferred to a separatory funnel where the aqueous layer was removed and the upper toluene layer was washed three times with 200 ml 0.5N NAOH and three times with 200 ml deionized water. The toluene was removed under reduced pressure leaving 102.6 grams (98% yield) of n-hexadecyl phenyl ether. Analysis by gas chromatography showed that the product was 98.3% pure.

reactant | 1-bromohexadecane | 0.33 moles, 100 grams | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | phenol | 0.99 moles, 92.5 grams | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 0.99 moles, 55.2 grams | [OH-].[K+]
reactant | toluene | 167 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetra-n-butylammonium bromide | 10 grams | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 167 ml | O | H2O
product | n-hexadecyl phenyl ether | 102.6 grams, 98% yield | C1(=CC=CC=C1)OCCCCCCCCCCCCCCCC | C22H38O
